US04958026
2.7 g of 5-(2-aminoethyl)-2-benzyloxyaniline, hydrochloride, in 160 ml of chloroform is combined with 4 ml of a mixture of formic acid and acetic anhydride (3:5). After 5 minutes of agitation at room temperature, a small amount of water is added and the mixture completely evaporated. The residue is chromatographed on silica gel with methylene chloride/methanol 8:2. The thus-purified material is washed in methylene chloride with sodium bicarbonate solution. After evaporation, 1.5 g of 2-(4-benzyloxy-3-formylaminophenyl)ethylamine is obtained as a noncrystalline material.

reactant | 5-(2-aminoethyl)-2-benzyloxyaniline, hydrochloride | 2.7 g | Cl.NCCC=1C=CC(=C(N)C1)OCC1=CC=CC=C1
reactant | formic acid | C(=O)O | CH2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-benzyloxy-3-formylaminophenyl)ethylamine | 1.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCN)NC=O | C16H18N2O2
